US05360800
5-Cyclopentyl-2,3,4,5-tetrahydro-2[(5-methyl-1H-imidazol-4-yl)methyl]-1H-pyrido[4,3-b]indol-1-one maleate
A solution of 2,3,4,5-tetrahydro-2-[[5-methyl-1-(triphenylmethyl)-1H-imidazol-4-yl]methyl]-1H-pyrido[4,3-b]indol-1-one (523 mg) in dry DMF (30 ml) was treated with sodium hydride (60% dispersion in oil; 46 mg) and stirred for 15 min. at 21° under nitrogen. Cyclopentyl bromide (298 mg) was then added dropwise, and the mixture was stirred for 1 h and then heated at reflux for 4 h. The solution was left at 21° for 2 days, and then treated with a mixture of acetic acid (7 ml), water (7 ml) and THF (8 ml). The resulting solution was heated at reflux for 4 h, then basified with 2N sodium hydroxide and extracted with dichloromethane (3×25 ml). The combined extracts were washed with water (2×50 ml), concentrated in vacuo and purified by FCC eluting with System A (100:8:1) to give the free base of the title compound (42 mg) as a solid. Maleate formation gave the title compound (38 mg), m.p. 180° (decomp.), t.l.c. (System A, 100:8:1) Rf 0.3.

reactant | 2,3,4,5-tetrahydro-2-[[5-methyl-1-(triphenylmethyl)-1H-imidazol-4-yl]methyl]-1H-pyrido[4,3-b]indol-1-one | 523 mg | CC1=C(N=CN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CN1C(C2=C(NC=3C=CC=CC23)CC1)=O | C35H30N4O
reactant | sodium hydride | 46 mg | [H-].[Na+]
reactant | Cyclopentyl bromide | 298 mg | C1(CCCC1)Br | C5H9Br
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | acetic acid | 7 ml | C(C)(=O)O | C2H4O2
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | THF | 8 ml | C1CCOC1 | C4H8O
solvent | water | 7 ml | O | H2O
product | 5-Cyclopentyl-2,3,4,5-tetrahydro-2[(5-methyl-1H-imidazol-4-yl)methyl]-1H-pyrido[4,3-b]indol-1-one maleate | 42 mg | C(\C=C/C(=O)O)(=O)O.C1(CCCC1)N1C2=C(C=3C=CC=CC13)C(N(CC2)CC=2N=CNC2C)=O | InChI=1S/C21H24N4O.C4H4O4/c1-14-17(23-13-22-14)12-24-11-10-19-20(21(24)26)16-8-4-5-9-18(16)25(19)15-6-2-3-7-15;5-3(6)1-2-4(7)8/h4-5,8-9,13,15H,2-3,6-7,10-12H2,1H3,(H,22,23);1-2H,(H,5,6)(H,7,8)/b;2-1-
